US09289430B2
3-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)carbamoyl)benzoic acid
Into a 100-mL round bottom flask, was placed a solution of methyl 3-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)carbamoyl)benzoate (300 mg, 0.51 mmol, 1.00 equiv) in tetrahydrofuran (30 mL), water (5 mL), and lithium hydroxide hydrate (300 mg, 12.50 mmol, 24.62 equiv). The resulting solution was stirred overnight at room temperature. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The solution was adjusted to pH 2 with hydrochloric acid 1 mol/L). The resulting solution was extracted with 3×30 mL of ethyl acetate and the organic layers combined, washed with 1×30 mL of brine, and dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum. This resulted in 300 mg of crude product as a gray solid.

reactant | methyl 3-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)carbamoyl)benzoate | 0.51 mmol, 300 mg, 1.00 equiv | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)OC)C=CC1)C(NC1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C31H28F3N5O4
reactant | lithium hydroxide hydrate | 12.50 mmol, 300 mg, 24.62 equiv | O.[OH-].[Li+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)carbamoyl)benzoic acid | 300 mg | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)O)C=CC1)C(NC1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C30H26F3N5O4
